US07348438B2
5,6-Dichloro-2-(pentafluoroethyl)-1H-benzoimidazole
4,5-Dichloro-benzene-1,2-diamine (2.01 g; 11.4 mmoles) and 2,2,3,3,3-pentafluoro-propionic acid (1.80 mL; 17.3 mmoles) were suspended in 6N HCl (10 mL; 60 mmoles) under a nitrogen atmosphere. The reaction was stirred vigorously and heated to 108° C. for 18 hrs, then cooled to room temperature. The reaction was diluted with water (60 mL) and with ethyl acetate (60 mL), then sodium bicarbonate (7.59 g; 90.3 mmoles) was added slowly and in portions to quench the reaction. The aqueous layer was separated and extracted with ethyl acetate (3×30 mL). The extracts were combined, washed with water (30 mL) and brine (30 mL), then dried over Na2SO4. The filtrate was concentrated in vacuo to yield a crude brown solid which was then purified by column chromatography (SiO2; 100% CH2Cl2) to yield the title compound as a light tan solid.

reactant | 4,5-Dichloro-benzene-1,2-diamine | 11.4 mmoles, 2.01 g | ClC=1C=C(C(=CC1Cl)N)N | C6H6Cl2N2
reactant | 2,2,3,3,3-pentafluoro-propionic acid | 17.3 mmoles, 1.80 mL | FC(C(=O)O)(C(F)(F)F)F | C3HF5O2
reactant | HCl | 60 mmoles, 6N, 10 mL | Cl | ClH
reactant | sodium bicarbonate | 90.3 mmoles, 7.59 g | C([O-])(O)=O.[Na+]
solvent | water | 60 mL | O | H2O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 5,6-Dichloro-2-(pentafluoroethyl)-1H-benzoimidazole | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)(F)F)C=C1Cl | C9H3Cl2F5N2
